US05412097
Step 2: Preparation of 6-[(1-oxobutyl)amino]-2-propyl-7-methylimidazo[4,5-b]pyridine
A mixture of 2-amino-3,5-dinitro-4-methylpyridine (3.1 g, 15.6 mmol), THF (100 mL), methanol (100 mL) and Raney-nickel (6 mL of a 1:1 suspension in H2O) was stirred under H2 (1 atm.) for 6 h. The mixture was quickly filtered into a receiving flask containing 3 mL of conc. aqueous HCl, and the solvent was removed in vacuo at r.t. To the resulting crude 2,3,5-triamino-3-methylpyridine.HCl complex was added butyric acid (4.3 mL, 46.9 mmol) and polyphosphoric acid (100 mL) and this mixture was heated to 85° C. for 10 h. The warmed mixture was poured into stirred ice-H2O (200 mL) and this mixture was cooled and neutralized (to pH 3) by the addition of conc. NH4OH. Extraction with CH2Cl2 (3×50 mL), drying (Na2SO4), and concentration gave the title compound as a solid.

reactant | 2-amino-3,5-dinitro-4-methylpyridine | 15.6 mmol, 3.1 g | NC1=NC=C(C(=C1[N+](=O)[O-])C)[N+](=O)[O-] | C6H6N4O4
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | butyric acid | 46.9 mmol, 4.3 mL | C(CCC)(=O)O | C4H8O2
reactant | NH4OH | [NH4+].[OH-]
solvent | H2O | O | H2O
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | 100 mL | CO | CH4O
product | 6-[(1-oxobutyl)amino]-2-propyl-7-methylimidazo[4,5-b]pyridine | O=C(CCC)NC=1C(=C2C(=NC1)N=C(N2)CCC)C | C14H20N4O
